US05166367
7-[3-[[(2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one
2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-methanamine (3.8 g, 20 mmole), 7-(3-chloropropoxy)coumarin (4.8 g, 20 mmole), diisopropylethylamine (2.6 g, 20 mmole) and sodium iodide (5.0 g, 33 mmole) were combined in 200 ml of DMF and heated at 100° C. for 24 hours under a nitrogen atmosphere. The solvent was then removed and replaced with 500 ml of dichloromethane. The mixture was washed with 300 ml portions of saturated aqueous sodium bicarbonate, with saturated aqueous sodium chloride, dried over sodium sulfate, filtered, and concentrated in vacuum. The residue was column chromatographed on 100 g of silica gel using first dichloromethane, then chloroform, and finally 2% methanol in chloroform as eluant. The product-containing fractions were combined and concentrated in vacuum and the residue crystallized from 100 ml of isopropanol with the addition of 5.0 ml of 4N isopropanolic HCl to give 3.2 g of title compound as a white solid, monohydrochloride, m.p. 223°- 225° C.

reactant | 2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-methanamine | 20 mmole, 3.8 g | COC=1C=CC2=C(OC(CO2)CN)C1 | C10H13NO3
reactant | 7-(3-chloropropoxy)coumarin | 20 mmole, 4.8 g | ClCCCOC1=CC=C2C=CC(OC2=C1)=O | C12H11ClO3
reactant | diisopropylethylamine | 20 mmole, 2.6 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 33 mmole, 5.0 g | [I-].[Na+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 7-[3-[[(2,3-Dihydro-7-methoxy-1,4-benzodioxin-2-yl)methyl]amino]propoxy]-2H-1-benzopyran-2-one | 3.2 g | COC=1C=CC2=C(OC(CO2)CNCCCOC2=CC3=C(C=CC(O3)=O)C=C2)C1 | C22H23NO6
